US08957080B2
Into a 100 mL 3-necked round-bottom flask purged and maintained under an inert atmosphere of nitrogen, was placed a solution of 1,4-difluoro-2-(4-iodophenoxy)benzene (2 g, 6.02 mmol, 1.00 equiv) in N,N-dimethylformamide (50 mL), 4,4,5,5-tetramethyl-2-(tetramethyl-1,3,2-dioxaborolan-2-yl)-1,3,2-dioxaborolane (1.68 g, 6.62 mmol, 1.10 equiv), potassium acetate (1.76 g, 17.93 mmol, 3.0 equiv), and Pd(OAc)2 (68 mg, 0.30 mmol, 0.05 equiv). The resulting solution was stirred for 12 h at 85° C. in an oil bath and then diluted with water. The resulting solution was extracted with ethyl acetate and the organic layers combined. The combined organics were washed with water and brine and dried over anhydrous sodium sulfate and concentrated. The residue was loaded onto a silica gel column and eluted with ethyl acetate/petroleum ether (1/8) to give 1.5 g (75%) of 2-[4-(2,5-difluorophenoxy)phenyl]-4,4,5,5-tetramethyl-1,3,2-dioxaborolane as a light yellow solid.

reactant | 1,4-difluoro-2-(4-iodophenoxy)benzene | 6.02 mmol, 2 g, 1.00 equiv | FC1=C(C=C(C=C1)F)OC1=CC=C(C=C1)I | C12H7F2IO
reactant | 4,4,5,5-tetramethyl-2-(tetramethyl-1,3,2-dioxaborolan-2-yl)-1,3,2-dioxaborolane | 6.62 mmol, 1.68 g, 1.10 equiv | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | potassium acetate | 17.93 mmol, 1.76 g, 3.0 equiv | C(C)(=O)[O-].[K+]
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
catalyst | Pd(OAc)2 | 0.30 mmol, 68 mg, 0.05 equiv | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 2-[4-(2,5-difluorophenoxy)phenyl]-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 1.5 g, 75% | FC1=C(OC2=CC=C(C=C2)B2OC(C(O2)(C)C)(C)C)C=C(C=C1)F | C18H19BF2O3
